US07572808B2
Preparation of 8-(4-acetylphenyl)-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
To a stirring solution of 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one (170 mg, 0.35 mmol) in THF (5 mL) at room temperature under argon was added 4-acetylphenylboronic acid (173 mg, 1.05 mmol), Pd(dppf)Cl2.CH2Cl2 (32.2 mg, 0.035 mmol), and K3PO4 (224 mg, 1.05 mmol). The resulting suspension was purged of oxygen by bubbling with argon for 15 min, sealed in a vial under argon, heated at 90° C. for 12 h, and then cooled to room temperature. The reaction mixture was diluted with EtOAc and washed once with brine. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure. The crude product was purified by automated silica gel chromatography (eluted with EtOAc/hexanes). Pooling of the desired fractions, washing with saturated aq. NaHCO3 solution to eliminate any possible boronic acid contaminant, drying the organic phase (MgSO4), filtering and evaporation provided the title compound as a yellow solid, after recrystallization from EtOAc/hexanes, to obtain 110 mg, 60%. HPLC/MS: retention time=3.20 min, [M+H]+=523. 1H NMR (CDCl3): δ 8.77 (s, 1H), 7.88 (m, 4H), 7.66 (d, J=8.2 Hz, 1H), 7.35 (d, J=8.3 Hz, 2H), 7.23 (d, J=8.3 Hz, 2H), 7.04 (d, J=8.2 Hz, 2H), 6.66 (d, J=7.2 Hz, 2H), 5.25 (s, 2H), 2.60 (s, 3H).

reactant | 8-bromo-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | 0.35 mmol, 170 mg | BrC=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C19H11BrClF3N4O
reactant | 4-acetylphenylboronic acid | 1.05 mmol, 173 mg | C(C)(=O)C1=CC=C(C=C1)B(O)O | C8H9BO3
reactant | CH2Cl2 | 0.035 mmol, 32.2 mg | C(Cl)Cl | CH2Cl2
reactant | K3PO4 | 1.05 mmol, 224 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | Pd(dppf)Cl2 | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 8-(4-acetylphenyl)-7-(4-chlorophenyl)-2-((6-(trifluoromethyl)pyridin-3-yl)methyl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | C(C)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1C1=CC=C(C=C1)Cl)C(N(N2)CC=2C=NC(=CC2)C(F)(F)F)=O | C27H18ClF3N4O2
